US09034874B2
e) 1-(6-oxo-1,6-dihydropyridazin-3-yl)piperidin-4-yl 4-cyclobutylpiperazine-1-carboxylate
To a solution of 4-nitrophenyl 1-(6-oxo-1,6-dihydropyridazin-3-yl)piperidin-4-yl carbonate (440 mg, 1.22 mmol) in DCM (20 mL) was added TEA (616 mg, 6.1 mmol) and 1-cyclobutylpiperazine (388 mg, 1.83 mmol). The resulting mixture was stirred at 30° C. for 2 h before it was concentrated to dryness. The title compound was obtained as a white solid after silica gel chromatography (DCM/MeOH=50/1 to 5/1) (410 mg, 93%). [1H NMR (400 MHz, CDCl3) (δ 11.20 (s, 1H), 7.20 (d, J=10 Hz, 1H), 6.87 (d, J=10 Hz, 1H), 4.87˜4.92 (m, 1H), 3.45˜3.50 (m, 6H), 3.16˜3.23 (m, 2H), 2.68˜2.76 (m, 1H), 2.29 (br, 4H), 1.72˜2.07 (m, 10H); LCMS: Rt=1.36 min, m/z 362.3 (M+H)+].

reactant | 4-nitrophenyl 1-(6-oxo-1,6-dihydropyridazin-3-yl)piperidin-4-yl carbonate | 1.22 mmol, 440 mg | C(OC1=CC=C(C=C1)[N+](=O)[O-])(OC1CCN(CC1)C1=NNC(C=C1)=O)=O | C16H16N4O6
reactant | 1-cyclobutylpiperazine | 1.83 mmol, 388 mg | C1(CCC1)N1CCNCC1 | C8H16N2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-(6-oxo-1,6-dihydropyridazin-3-yl)piperidin-4-yl 4-cyclobutylpiperazine-1-carboxylate | C1(CCC1)N1CCN(CC1)C(=O)OC1CCN(CC1)C1=NNC(C=C1)=O | C18H27N5O3
